US07381719B2
Combine [2-(4-hydroxy-phenyl)-ethyl]-methyl-carbamic acid tert-butyl ester (5.0 g, 19.9 mmol), 6-chloronicotinamide (3.1 g, 19.9 mmol), and cesium carbonate (12.9 g, 39.8 mmol), in N,N-dimethylformamide (90 mL), stir and heat at 85° C. for 18 hours. Cool to room temperature and evaporate on a rotary evaporator to yield the crude product (9.5 g). The crude product is purified by flash column chromatography on silica gel eluting with (0.5% conc. ammonium hydroxide/5% ethanol) to (1% conc. ammonium hydroxide/10% ethanol) in chloroform to yield {2-[4-(5-carbamoyl-pyridin-2-yloxy)-phenyl]-ethyl}-methyl-carbamic acid tert-butyl ester (6.5 g, 17.5 mmol): 1H NMR (CDCl3, 300.00 MHz): 8.60 (s, 1H); 8.18-8.14 (m, 1H); 7.24-7.24 (m, 2H); 7.07 (d, 2H); 6.94 (d, 1H); 5.98 (br, 2H); 3.47-3.42 (m, 2H); 2.85-2.85 (m, 5H); 1.42 (s, 9H).

reactant | [2-(4-hydroxy-phenyl)-ethyl]-methyl-carbamic acid tert-butyl ester | 19.9 mmol, 5.0 g | C(C)(C)(C)OC(N(C)CCC1=CC=C(C=C1)O)=O | C14H21NO3
reactant | 6-chloronicotinamide | 19.9 mmol, 3.1 g | ClC1=NC=C(C(=O)N)C=C1 | C6H5ClN2O
reactant | cesium carbonate | 39.8 mmol, 12.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 90 mL | CN(C=O)C | C3H7NO
product | {2-[4-(5-carbamoyl-pyridin-2-yloxy)-phenyl]-ethyl}-methyl-carbamic acid tert-butyl ester | 17.5 mmol, 6.5 g | C(C)(C)(C)OC(N(C)CCC1=CC=C(C=C1)OC1=NC=C(C=C1)C(N)=O)=O | C20H25N3O4
